US07473694B2
Synthesis of tert-butyl (S)-3-{8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate
To a mixed solution of tetrahydrofuran (3.2 mL) and water (0.8 mL) containing tert-butyl (S)-3-{6-allyl-7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]pyrazolo[1,5-a]pyrimidin-5-ylamino}piperidine-1-carboxylate (375 mg, 0.632 mmol), sodium periodate (405 mg, 1.89 mmol) and osmium tetraoxide (2.5w/v % tert-butanol solution, 793 μL, 0.063 mmol) were added, and the mixture was stirred. After the reaction, aqueous sodium sulfite was added to the solution, and the mixture was extracted with ethyl acetate. The combined ethyl acetate layer was washed with brine and dried over sodium sulfate. After the sodium sulfate was filtered off, and the solvent was distilled off to obtain the title compound.

reactant | tetrahydrofuran | 3.2 mL | O1CCCC1 | C4H8O
reactant | tert-butyl (S)-3-{6-allyl-7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]pyrazolo[1,5-a]pyrimidin-5-ylamino}piperidine-1-carboxylate | 0.632 mmol, 375 mg | C(C=C)C=1C(=NC=2N(C1N(C1=CC=C(C=C1)OCC)C(=O)OC(C)(C)C)N=CC2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C | C32H44N6O5
reactant | sodium periodate | 1.89 mmol, 405 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
catalyst | osmium tetraoxide | 0.063 mmol, 793 μL | [Os](=O)(=O)(=O)=O
solvent | water | 0.8 mL | O | H2O
product | tert-butyl (S)-3-{8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N(C1=C2C=CN(C2=NC2=CC=NN12)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OCC | C31H40N6O5
